US09126998B2
rac-N-(2-Amino-2,4-dimethylpentyl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide
150 mg (0.47 mmol) of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid Example 3A were initially charged in DMF (1.7 ml), and 159 mg (0.50 mmol) of TBTU and 0.16 ml (1.41 mmol) of 4-methylmorpholine were added. 68 mg (0.52 mmol) of rac-2,4-dimethylpentane-1,2-diamine were then added, and the reaction mixture was stirred at RT overnight. Another 6.1 mg (0.04 mmol) of rac-2,4-dimethylpentane-1,2-diamine were added, and the reaction mixture was stirred at RT for 20 min. The mixture was diluted with water/TFA and purified by prep. RP-HPLC (acetonitrile/water gradient with addition of 0.1% TFA). The product fraction was concentrated. The residue was taken up in dichloromethane and a few drops of methanol and washed twice with saturated aqueous sodium bicarbonate solution, and the aqueous phase was extracted three times with dichloromethane. The organic phase was dried over sodium sulphate, filtered off and concentrated. This gave 126 mg (61% of theory, purity 97%) of the target compound.

reactant | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.47 mmol, 150 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C16H12F2N2O3
reactant | TBTU | 0.50 mmol, 159 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 4-methylmorpholine | 1.41 mmol, 0.16 ml | CN1CCOCC1 | C5H11NO
reactant | rac-2,4-dimethylpentane-1,2-diamine | 0.52 mmol, 68 mg | CC(CN)(CC(C)C)N | C7H18N2
reactant | rac-2,4-dimethylpentane-1,2-diamine | 0.04 mmol, 6.1 mg | CC(CN)(CC(C)C)N | C7H18N2
solvent | DMF | 1.7 ml | CN(C)C=O | C3H7NO
solvent | water TFA | O.C(=O)(C(F)(F)F)O
product | rac-N-(2-Amino-2,4-dimethylpentyl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C)(CC(C)C)C | C23H28F2N4O2
